Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ampicillin
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Colonoscopy

 
History of Present Illness:
___ w/colonoscopy and polypectomy ___  presents with BRBPR. 
Colonoscopy and EGD at ___ found 2 cecal polyps and mild 
gastritis. Procedure was uncomplicated and patient was 
discharged home. She was feeling well and tolerating POs until 
today, when she developed BRBPR. Pt presented to PCP today for 
evaluation. Vitals were stable and patient appeared well and she 
was sent home with instructions to present to ED if sx did not 
resolve. She had 10 more bloody BMs with clots. Patient reports 
fatigue, mild lightheadedness. Denies CP, SOB, melena.

In ED pt HDS. Seen by GI who rec prep tonight for repeat scope 
tomorrow if bleeding continues.
On arrival to floor pt reports bleeding has slowed down. Last 3 
BMs with single clot only and no BM in over 1 hr. Denies abd 
pain.

ROS: +as above, otherwise reviewed and negative

 
Past Medical History:
c4-5 cervical spondylosisis
colonic adenoma
GERD
HTN
 
Social History:
___
Family History:
+gastric, pancreatitic, colon cancer
no bleeding d/o

 
Physical Exam:
Vitals: T:97.5 P:107/66 P:94  R:20  O2:99%ra  
PAIN: 0
General: nad
Lungs: clear
CV: rrr no m/r/g
Abdomen: bowel sounds present, soft, nt/nd
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands

 
Pertinent Results:
ADMISSION LABS:
======================
___ 06:30PM   WBC-6.5 RBC-3.88* HGB-11.2* HCT-33.4* MCV-86 
MCH-28.9 MCHC-33.6 RDW-12.5
___ 06:30PM   PLT COUNT-143*
___ 06:30PM   ___ PTT-33.8 ___
___ 06:30PM   GLUCOSE-101* UREA N-18 CREAT-0.6 SODIUM-142 
POTASSIUM-3.4 CHLORIDE-105 TOTAL CO2-30 ANION GAP-10
___ 06:30PM   CALCIUM-9.0 PHOSPHATE-3.3 MAGNESIUM-2.0

CBC TREND:
======================
___ 06:45AM BLOOD WBC-5.3 RBC-3.21* Hgb-9.4* Hct-28.1* 
MCV-87 MCH-29.3 MCHC-33.5 RDW-12.5
___ 01:10PM BLOOD WBC-6.7 RBC-3.26* Hgb-9.8* Hct-28.4* 
MCV-87 MCH-30.1 MCHC-34.5 RDW-12.5 Plt ___
___ 06:50AM BLOOD WBC-7.1 RBC-2.90* Hgb-8.6* Hct-25.5* 
MCV-88 MCH-29.8 MCHC-33.8 RDW-12.8 Plt Ct-UNABLE TO 
___ 03:56PM BLOOD WBC-6.9 RBC-2.94* Hgb-8.6* Hct-25.8* 
MCV-88 MCH-29.1 MCHC-33.2 RDW-12.6 Plt Ct-UNABLE TO 

COLONOSCOPY ___
======================
Indications: Hematochezia
 
Procedure: The procedure, indications, preparation and potential 
complications were explained to the patient, who indicated her 
understanding and signed the corresponding consent forms. A 
physical exam was performed. The patient was administered 
moderate sedation. Supplemental oxygen was used. The patient was 
placed in the left lateral decubitus position.The digital exam 
was normal. The colonoscope was introduced through the rectum 
and advanced under direct visualization until the cecum was 
reached. The appendiceal orifice and ileo-cecal valve were 
identified. Careful visualization of the colon was performed as 
the colonoscope was withdrawn. The colonoscope was retroflexed 
within the rectum. The procedure was not difficult. The quality 
of the preparation was good. The patient tolerated the procedure 
well. There were no complications.
Findings: 
Excavated Lesions A single scar was noted in the cecum at site 
of polyp removal . An ND-YAG Laser was applied for hemostasis 
successfully. Three triclips were successfully applied for the 
purpose of hemostasis. 
Impression: Scar in the cecum at site of polyp removal (thermal 
therapy, endoclip)
Otherwise normal colonoscopy to cecum
Recommendations: No active bleeding at time of procedure.
the escar from the prior polypectomy site was noted and there 
was a small area of recent bleeding at the edge.

This area was treated with endoclip and argon laser.

Hopefully, this will control bleeding and patient can be 
discharged tomorrow.
History: post cecal polypectomy bleed
Additional notes: FINAL DIAGNOSIS are listed in the impression 
section above. Estimated blood loss = zero. No speciimens were 
taken for pathology.
 
Brief Hospital Course:
ASSESSMENT AND PLAN:  ___ w/colonoscopy and polypectomy ___ 
presented with BRBPR.

Post-polypectomy Bleeding: Presented with BRBPR 48 hours after 
colonoscopy and polypectomy. Over the course of the 
hospitalization bleeding was persistent, then stopped prior to 
repeat colonoscopy. Her hematocrit trended from 33 to 28 then 
stabilized at 25. She was taken for repeat colonoscopy and an 
encoclip was placed as well as argon coagulation to the area of 
recent bleeding. She was monitored overnight, her diet was 
advanced and she was discharged home. 

GERD/Gastritis: Stable on admission. No medications were 
initiated.

HTN: held HCTZ while NPO, and restarted the medication on 
discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO QHS 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Sertraline 50 mg PO HS 

 
Discharge Medications:
1. ClonazePAM 0.5 mg PO QHS 
2. Sertraline 50 mg PO HS 
3. Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
4. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute blood loss anemia secondary to polypectomy bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ with a GI bleed from the site of your 
recent polyp removal. After an initial drop, your blood count 
stabilized at 25. You were restarted on iron. 

Please
 
Followup Instructions:
___